US08563550B2
(4-Fluoro-phenyl)-(5-iodo-imidazo[2,1-b][1,3,4]thiadiazol-2-yl)-amine (0.065 g, 0.18 mmol) was suspended in 1,4-dioxane (1 mL) at room temperature, and Argon was bubbled into the mixture while dichlorobis(triphenylphosphine)-palladium(II) (13 mg, 0.018 mmol), 4-acetamidophenylboronic acid (37 mg, 0.21 mmol), cesium carbonate (118 mg, 0.36 mmol) and water (1 mL) were added. The mixture was deoxygenated for 10 minutes and heated under microwave irradiation at 140° C. for 30 minutes. On cooling, the mixture was diluted with dichloromethane (5 mL), adsorbed in silica and purified by column chromatography (Biotage™/Flash, silica, methanol:dichloromethane 0.4:9.6 to 1.5:8.5). The product obtained was treated with diethylether (7 mL) and filtered to give N-{4-[2-(4-fluoro-phenylamino)-imidazo[2,1-b][1,3,4]thiadiazol-5-yl]-phenyl}-acetamide as an off-white solid (10 mg, 15% yield).

reactant | (4-Fluoro-phenyl)-(5-iodo-imidazo[2,1-b][1,3,4]thiadiazol-2-yl)-amine | 0.18 mmol, 0.065 g | FC1=CC=C(C=C1)NC1=NN2C(S1)=NC=C2I | C10H6FIN4S
reactant | 4-acetamidophenylboronic acid | 0.21 mmol, 37 mg | C(C)(=O)NC1=CC=C(C=C1)B(O)O | C8H10BNO3
reactant | cesium carbonate | 0.36 mmol, 118 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 1 mL | O | H2O
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
catalyst | dichlorobis(triphenylphosphine)-palladium(II) | 0.018 mmol, 13 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | diethylether | 7 mL | C(C)OCC | C4H10O
product | N-{4-[2-(4-fluoro-phenylamino)-imidazo[2,1-b][1,3,4]thiadiazol-5-yl]-phenyl}-acetamide | 10 mg, 15% yield | FC1=CC=C(C=C1)NC1=NN2C(S1)=NC=C2C2=CC=C(C=C2)NC(C)=O | C18H14FN5OS
